US08975282B2
Step 2) 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido) pyridin-3-yl)oxy)picolinamide
To a suspension of 4-((6-aminopyridin-3-yl)oxy)picolinamide (230 mg, 1 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (237 mg, 1.02 mmol) in DCM (5 mL) was added EDCI (230 mg, 1.2 mmol) and HOAT (27 mg, 0.2 mmol). The reaction was stirred at 45° C. for 28 hours, then cooled to rt and diluted with water (10 mL) and DCM (20 mL). The organic phase was concentrated in vacuo and the residue was purified by a silica gel column chromatography (DCM/CH3OH (v/v)=40/1) to give the title compound as a light grey solid (111 mg, 25%).

reactant | 4-((6-aminopyridin-3-yl)oxy)picolinamide | 1 mmol, 230 mg | NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N | C11H10N4O2
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.02 mmol, 237 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 1.2 mmol, 230 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.2 mmol, 27 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido) pyridin-3-yl)oxy)picolinamide | 111 mg, 25% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N)=O)C1=CC=CC=C1 | C23H20N6O4
